US05459142
To a solution of 7.50 g of N-(2-hydroxyimino-4-methylpentanoyl)-(3,4,5-trimethoxy)phenylalanine methyl ester in dried dimethylformamide (150 ml) was added 0.9 g of sodium hydride (60%), and the mixture was stirred at room temperature for 1 hour. Then 2.75 ml of benzyl bromide was added to the reaction mixture and further stirred at room temperature for 2 hours. The reaction mixture was transferred to an aqueous solution saturated with ammonium chloride under an ice-cooling condition, then was extracted with ethyl acetate. The organic layer was washed with an aqueous solution saturated with sodium chloride in three times, and was dried with magnesium sulfate, and the solvent was removed by distillation, the resulting residue was purified by means of a silica gel column chromatography (eluent: ethyl acetate:n-hexane=l:3) to obtain 8.35 g of N-(2-benzyloxyimino-4-methylpentanoyl)-(3,4,5-trimethoxy)phenylalanine methyl ester.

reactant | N-(2-hydroxyimino-4-methylpentanoyl)-(3,4,5-trimethoxy)phenylalanine methyl ester | 7.50 g | COC([C@@H](NC(C(CC(C)C)=NO)=O)CC1=CC(=C(C(=C1)OC)OC)OC)=O | C19H28N2O7
reactant | sodium hydride | 0.9 g | [H-].[Na+]
reactant | benzyl bromide | 2.75 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | N-(2-benzyloxyimino-4-methylpentanoyl)-(3,4,5-trimethoxy)phenylalanine methyl ester | 8.35 g | COC([C@@H](NC(C(CC(C)C)=NOCC1=CC=CC=C1)=O)CC1=CC(=C(C(=C1)OC)OC)OC)=O | C26H34N2O7
